US07531532B2
[6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-yl]carbamic acid phenyl ester
6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-ylamine (400 mg) was dissolved in tetrahydrofuran (16 ml) under a nitrogen atmosphere, and then triethylamine (0.669 ml) and phenyl chloroformate (0.602 ml) were added dropwise thereto while cooling in an ice bath, followed by warming the reaction mixture to room temperature and stirring for 10 min. The reaction mixture was partitioned between ethyl acetate (30 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated to give a residue, which was then suspended in diethyl ether (4 ml)-hexane (4 ml). The solid was filtered and dried under aeration to provide the titled compound (396 mg, 66.8%) as pale yellow powder.

reactant | 6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-ylamine | 400 mg | FC1=C(OC2=CC(=NC=N2)N)C=CC(=C1)[N+](=O)[O-] | C10H7FN4O3
reactant | triethylamine | 0.669 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.602 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | hexane | 4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 4 ml | C(C)OCC | C4H10O
product | [6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-yl]carbamic acid phenyl ester | 396 mg, 66.8% | C1(=CC=CC=C1)OC(NC1=NC=NC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F)=O | C17H11FN4O5
